US07951799B2
(Step 1) Synthesis of 2,6-dibromo-1-(2-chloro ethoxy)benzene
A solution comprising 2,6-dibromophenol (3.90 g, 15.00 mmol), potassium carbonate (2.48 g, 17.94 mmol) and DMF (40 ml) was added with 1-bromo-2-chloro ethane (4.30 g, 29.98 mmol) and stirred at room temperature for 16 hours. The reaction solution was concentrated and liquid separation was carried out with ethyl acetate-water. The organic layer was washed with saturated sodium chloride water and dried with anhydrous sodium sulfate. The residue obtained by concentration was purified by silica gel column chromatography (n-hexane) to obtain the target compound (4.75 g, quant.) as a colorless oily substance.

reactant | 2,6-dibromophenol | 15.00 mmol, 3.90 g | BrC1=C(C(=CC=C1)Br)O | C6H4Br2O
reactant | potassium carbonate | 17.94 mmol, 2.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloro ethane | 29.98 mmol, 4.30 g | BrCCCl | C2H4BrCl
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2,6-dibromo-1-(2-chloro ethoxy)benzene | BrC1=C(C(=CC=C1)Br)OCCCl | C8H7Br2ClO
